US04746352
using isopropyl 2-chloro-4-fluoro-5-{3-[3-(ethoxycarbonyl)-4,5-dihydro-furan-2-yl]ureido}-benzoate with sodium isopropylate in an isopropanol/dimethylformamide mixture there is obtained isopropyl 2-chloro-4-fluoro-5-{1,2,5,6-tetrahydro-2,4-dioxo-furo[2,3-d]pyrimidin-3(4H)-yl}-benzoate, m.p. 213°-215° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-{3-[3-(ethoxycarbonyl)-4,5-dihydro-furan-2-yl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC=1OCCC1C(=O)OCC | C18H20ClFN2O6
reactant | sodium | [Na] | Na
solvent | isopropanol dimethylformamide | C(C)(C)O.CN(C=O)C
product | isopropyl 2-chloro-4-fluoro-5-{1,2,5,6-tetrahydro-2,4-dioxo-furo[2,3-d]pyrimidin-3(4H)-yl}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC2=C(C1=O)CCO2)=O | C16H14ClFN2O5
